US07517873B2
To a solution of 0.570 g (0.00477 mole) of 4-amino-1-methylpiperidine, 1.5 mL of ethyldiisopropylamine and 20 mL of dichloromethane at 0 degrees, was added 1.000 g (0.00451 mole) of 4-nitrobenzenesulfonyl chloride. The mixture was stirred for 1 hour and then diluted with 100 mL of ethyl acetate and washed successively twice with 20 mL of saturated sodium bicarbonate solution, twice with 20 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 1.23 g of N-(1-methyl-piperidin-4-yl)-4-nitro-benzenesulfonamide as a yellow solid. The material was used without further purification.

reactant | 4-amino-1-methylpiperidine | 0.00477 mole, 0.570 g | NC1CCN(CC1)C | C6H14N2
reactant | ethyldiisopropylamine | 1.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | 4-nitrobenzenesulfonyl chloride | 0.00451 mole, 1.000 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-methyl-piperidin-4-yl)-4-nitro-benzenesulfonamide | 1.23 g | CN1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O4S
